US04846998
A mixture of 3.1 g of 3-methylcyclohexanecarbonitrile and 30 ml of THF has added to it at -78° a solution of lithium diisopropylamide (prepared from 3.3 g of diisopropylamine, 30 ml of THF and 19 ml of 1.6-molar butyllithium solution in hexane) and then a solution of 9.7 g of 1-bromo-2-(4'-pentylbiphenyl-4-yl)ethane in 30 ml of THF. Working up as in Example 1 gives 1-(1-cyano-3-methylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)ethane, m.p. 73°.

reactant | 3-methylcyclohexanecarbonitrile | 3.1 g | CC1CC(CCC1)C#N | C8H13N
reactant | lithium diisopropylamide | 1.6-molar, 30 ml, 3.3 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-bromo-2-(4'-pentylbiphenyl-4-yl)ethane | 9.7 g | BrCCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C19H23Br
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(1-cyano-3-methylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)ethane | C(#N)C1(CC(CCC1)C)CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C27H35N
